US06599925B2
1-[5-Chloro-2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one
Following the procedure described in Step 2 of Example 1, the title compound was prepared by the acylation of 5-chloro-2-(6-methoxy-naphth-2-yl)-1-benzofuran (6.6 g, 21.37 mmol), with valeryl chloride (2.3 mL, 16 mmol) in presence of tin (IV) chloride in chloroform. Purification by flash chromatography on silica gel using 2.5% ethyl acetate in hexane as the mobile phase yielded the title compound as a white solid (5.6 g), mp 119-120° C. Mass spectrum (+ESI, [M+NH4]+) m/z 410. 1HNMR (400 MHz, DMSO-d6): δ8.36 (d, 1H, J=1.6 Hz), 8.02 (dd, 2H, J=7.0, 2.2 Hz), 7.99 (s, 1H), 7.81 (dd, 1H, J=8.6, 1.7 Hz), 7.77 (d, 1H, J=8.8 Hz), 7.48-7.44 (m, 2H), 7.27 (dd, 1H, J=8.8, 2.3 Hz), 3.92 (s, 3H), 2.69 (t, 2H, J=7.3 Hz), 1.51 (m, 2H), 1.1 (m, 2H), and 0.68 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C24H21 ClO3: Calculated: C, 73.37; H, 5.39; N, 0.00. Found: C, 73.34; H, 5.27; N, 0.03.

reactant | 5-chloro-2-(6-methoxy-naphth-2-yl)-1-benzofuran | 21.37 mmol, 6.6 g | ClC=1C=CC2=C(C=C(O2)C2=CC3=CC=C(C=C3C=C2)OC)C1 | C19H13ClO2
reactant | valeryl chloride | 16 mmol, 2.3 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | [Sn](Cl)(Cl)(Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[5-Chloro-2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one | 5.6 g | ClC=1C=CC2=C(C(=C(O2)C2=CC3=CC=C(C=C3C=C2)OC)C(CCCC)=O)C1 | C24H21ClO3
